US07687118B2
26.1 g (0.065 mol) dimethyl bis(4-nitrobenzyl)malonate, 84 g (0.61 mol) 6-chlorohexanol, 23.0 g (0.10 mol) tetraethyl orthotitanate were suspended in 50 ml toluene. The reaction mixture was subsequently allowed to react for 72 h at refluxing temperature. The reaction mixture was partitioned between water and ethyl acetate; the organic phase was washed repeatedly with water, dried over magnesium sulphate, filtered and concentrated by rotary evaporation. The product was precipitated with 200 ml cyclohexane, collected by filtration and washed with hexane to yield 27.6 g of bis[6-chlorohexyl]2,2 bis(4-nitrobenzyl)malonate as beige powder.

reactant | dimethyl bis(4-nitrobenzyl)malonate | 0.065 mol, 26.1 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)OC)(C(=O)OC)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H18N2O8
reactant | 6-chlorohexanol | 0.61 mol, 84 g | ClCCCCCCO | C6H13ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetraethyl orthotitanate | 0.10 mol, 23.0 g | CCO.CCO.CCO.CCO.[Ti]
product | bis[6-chlorohexyl]2,2 bis(4-nitrobenzyl)malonate | 27.6 g | ClCCCCCCOC(C(C(=O)OCCCCCCCl)(CC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)[N+](=O)[O-])=O | C29H36Cl2N2O8
